US03968135
Tris(2-Hydroxyethyl)Cyclohexanetricarboxylate
Cyclohexanetricarboxylic acid was allowed to react under pressure with ethylene oxide and 0.15% of the catalyst of Example II (based on total wt. of system) in the presence of methyl isobutyl ketone at 150°-160°C for 2 hours. A viscous oil of good purity was obtained after charcoal treatment and evaporation of a methyl isobutyl ketone solution. The infrared spectra and elemental analysis were consistent with the desired product.

reactant | Cyclohexanetricarboxylic acid | C1(C(CCCC1)C(=O)O)(C(=O)O)C(=O)O | C9H12O6
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | Tris(2-Hydroxyethyl)Cyclohexanetricarboxylate | OCCOC(=O)C1(C(CCCC1)C(=O)OCCO)C(=O)OCCO | C15H24O9
